US04041044
The same procedure as described in Example 1 was carried out except that the 27.4 grams of 50% sodium hydroxide was used with 155 grams of 2'-hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene to give a ratio of moles of alkali to moles of o-nitroazobenzene intermediate of 0.848/1 compared to the ratio of 0.42/1 employed in Example 1.

reactant | sodium hydroxide | 27.4 grams | [OH-].[Na+]
reactant | 2'-hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene | 155 grams | OC1=C(C=C(C=C1C(C)(C)CC)C(C)(C)CC)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C22H29N3O3
product | o-nitroazobenzene | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=CC=CC=C1 | C12H9N3O2
